Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
RLE pain
 
Major Surgical or Invasive Procedure:
IVF filter placement ___

 
History of Present Illness:
Ms. ___ is a ___ PMHx advanced Alzheimer's dementia, chronic 
HCV, autoimmune hepatitis, and AFib who presents from her SNF 
for RLE DVT.

Per report from her SNF, the patient had been complaining of RLE 
pain.  LENIs showed DVT after which the patient was transferred 
to ___. 

In the ED, initial VS 98.1, 84, 142/65, 16, 98% RA.  Initial 
labs were unremarkable.   CXR here showed no evidence of PNA.  
UA was grossly positive and the patient was given IV 
ceftriaxone, Lovenox 70 mg x 1 prior to transfer.

Of note, the patient was most recently discharged from ___ in 
___ for seizure activity and was found to have a 3 cm 
atypical meningioma. Per ___ discussion with the patient's 
niece, surgical intervention was deferred.  Her course at the 
time was also notable for new paroxysmal AFib; given her 
CHADSVASC score of 4, anticoagulation was warranted.  However, 
given her age, risk of fall, and her new intracranial lesion 
(high risk for venous bleed), anticoagulation was deferred.  
From further collateral information obtained from her SNF (Vero 
Health and Rehab of Mattapan) this evening, it is unclear why 
the patient was not started on anticoagulation for DVT treatment 
and why the patient was transferred to ___ for further 
evaluation.  The ED attempted to reach out to the family re: 
utility of IVC filter placement in this setting, but was unable 
to contact the family.

Upon arrival to the floor, the patient denies any chest pain or 
SOB.  She has had a cough x 2 weeks; she has had no fevers.  She 
is AOx2 to self and place (at baseline).  She denies any 
dysuria, urinary incontinence or increased urinary frequency.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight gain. 
Denies sinus tenderness, rhinorrhea or congestion. Denies cough, 
shortness of breath. Denies chest pain or tightness, 
palpitations. Denies vomiting, diarrhea, constipation. No recent 
change in bladder habits. No dysuria. Denies arthralgias or 
myalgias.  
 
Past Medical History:
- Alzheimer's; ADL impaired in preparing food, remembering to 
bathe, recalling faces.  Lives at home but with extensive ___ 
and family support.  
- HCV, chronic, low viral load (last in OMR ___, 15 million 
copies)  
- Autoimmune hepatitis  
- HTN
- atypical meningioma
 
Social History:
___
Family History:
Unable to obtain from patient as patient with memory deficits
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vital Signs:  98.7, 178/81, 80, 18, 99% on RA
General: Alert, elderly female, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no appreciable 
m/r/g
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, obese, distended, nontender, bowel sounds 
present.  No suprapubic tenderness. 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
pitting edema of BLE.  TTP of RLE calf.
Neuro: alert, oriented to name and place (knows she is in 
hospital, but unable to say which one), face symmetric, able to 
move all extremities
Psych: normal affect and appropriately interactive
Derm: no rash or lesions 
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:00PM   GLUCOSE-94 UREA N-10 CREAT-0.8 SODIUM-141 
POTASSIUM-4.7 CHLORIDE-102 TOTAL CO2-26 ANION GAP-18
___ 11:00PM   LACTATE-1.5
___ 11:00PM   WBC-7.6 RBC-4.63 HGB-12.8 HCT-41.0 MCV-89 
MCH-27.6 MCHC-31.2* RDW-14.5 RDWSD-46.3
___ 11:00PM   NEUTS-56.1 ___ MONOS-10.4 EOS-1.6 
BASOS-0.4 IM ___ AbsNeut-4.28 AbsLymp-2.37 AbsMono-0.79 
AbsEos-0.12 AbsBaso-0.03
___ 11:00PM   PLT COUNT-178
___ 11:00PM   ___ PTT-32.0 ___
___ 10:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-7.0 LEUK-LG
___ 10:00PM URINE  RBC-2 WBC-21* BACTERIA-FEW YEAST-NONE 
EPI-<1

IMAGING/STUDIES
===============
___ CXR
No evidence of pneumonia. 

OSH ___:
RLE DVT

FINDINGS:
1. Patent normal sized, non-duplicated IVC with single bilateral 
renal veins
and no evidence of a clot.
2. Successful deployment of an infra-renal permanent infrarenal 
IVC filter.
 
IMPRESSION:
Successful deployment of permanent infrarenal IVC filter.
 
 
Brief Hospital Course:
Ms. ___ is a ___ PMHx advanced Alzheimer's dementia, chronic 
HCV, autoimmune hepatitis, and AFib who presents from her SNF 
for RLE DVT.

#####   DVT.  Diagnosed by LENIs at ___.  Patient started on Lovenox 
in ED for anticoagulation.  However, given intracranial lesion 
which is higher risk for bleeding, will discuss utility of IVC 
filter placement with HCP.  After discussion with HCP ___ 
___, decision made to place IVC filter and NOT anti 
coagulate given the patient's high risk for bleeding.  She went 
for uncomplicated IVC filter placement on ___.  She will not 
be anti coagulated going forward.

#####   Asymptomatic bacteriuria:
UA was positive and she was initially given antibiotics.  
However, there was no report of any symptoms to suggest UTI.   
Thus antibiotics were stopped.

#####   Atypical meningioma. Recently seen on brain MRI in ___.  
Patient at the time was placed on Keppra for seizure 
prophylaxis.  It is high risk for bleeding and that is partly 
why IVC filter placement was decided
- Continued Keppra 500 mg BID

#####   A. fib.  Recent diagnosis of paroxysmal AFib.  Despite 
CHADSVASC score of 4 warranting anticoagulation, systemic 
anticoagulation deferred due to age, risk of fall, and atypical 
meningioma at high risk for bleeding.
- No rate-control

#####   Autoimmune hepatitis.  
- Continued home prednisone

#####   Hypertension. Stable.
- Continued home nifedipine  

#####   Alzheimer's dementia.  At baseline.
- Continued home donepezil and memantine

#####   CODE STATUS: DNR, DNI (confirmed by SNF, MOLST form completed
#####   CONTACT: ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. Memantine 21 mg PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. NIFEdipine CR 30 mg PO DAILY 
6. PredniSONE 5 mg PO DAILY 
7. Vitamin E 400 UNIT PO DAILY 
8. LevETIRAcetam 500 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. LevETIRAcetam 500 mg PO BID 
4. Memantine 21 mg PO DAILY 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. NIFEdipine CR 30 mg PO DAILY 
7. PredniSONE 5 mg PO DAILY 
8. Vitamin E 400 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute RLE DVT 
Alzheimer's dementia 
Autoimmune hepatitis 
HCV 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Patient admitted for evaluation of acute RLE DVT.  Due to high 
bleeding risk, IVC filter was placed and patient will not be 
anti coagulated.  Please resume all previous medications
 
Followup Instructions:
___